US07160888B2
Synthesis of 7-{4-[4-(2-Oxo-2,3-dihydro-benzooxazol-7-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a solution of 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde (300 mg, 1.28 mmol) in DCE (6 mL) was added 7-piperazin-1-yl-3H-benzooxazol-2-one (309 mg, 1.41 mmol, prepared according to EP 0189612 and/or EP 0138280; Drugs of the Future, 2001, 26,128). The piperazine did not dissolve so DMF (1 mL) was added. The reaction was stirred for 10 min and NaBH(OAc)3 (380 mg, 1.79 mmol) was added. The reaction was stirred for 2 h at RT. Saturated NaHCO3 was added and the mixture was extracted with EtOAc (along with a little MeOH). The organic layer was washed with H2O and brine, and concentrated to give a light brown solid. The solid was dissolved in CH2Cl2/MeOH, absorbed onto SiO2 and purified by liquid chromatography (AnaLogix, RS-40, 0–5% MeOH/CH2Cl2) to give a white solid. Et2O was added and the solid was collected by filtration and dried to give the product as a white solid (360 mg, 0.823 mmol, 64%). MS: APCI: M+1: 438.2 (Exact Mass: 437.21).

reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | 1.28 mmol, 300 mg | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
reactant | 7-piperazin-1-yl-3H-benzooxazol-2-one | N1(CCNCC1)C1=CC=CC=2NC(OC21)=O | C11H13N3O2
reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | NaBH(OAc)3 | 1.79 mmol, 380 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 6 mL | ClCCCl | C2H4Cl2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | Et2O | CCOCC | C4H10O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 7-{4-[4-(2-Oxo-2,3-dihydro-benzooxazol-7-yl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.823 mmol, 360 mg, 64% | O=C1OC2=C(N1)C=CC=C2N2CCN(CC2)CCCCOC2=CC=C1CCC(NC1=N2)=O | C23H27N5O4
